US05175157
N- [2-(3,4-Dimethoxy-phenyl)-ethyl]-2-(2-hydroxyethyl)hexahydro-azepine
2.9 g (0.016 mol) of 2-(2-hydroxyethyl)-hexahydro-azepinehydrochloride are liberated with concentrated sodium hydroxide solution, taken up in methylene chloride and, after drying, evaporated down over magnesium sulphate. The residue is refluxed for 2 hours with 3.9 g (0.016 mol) of 2-(3,4-dimethoxy-phenyl)ethylbromide in 10 ml of triethylamine. After cooling, the reaction mixture is combined with 2 molar sodium hydroxide solution/methylene chloride. The alkaline phase is separated off and extracted twice with methylene chloride and the combined organic phases are dried over magnesium sulphate. The solvent is distilled off in vacuo and the residue is purified by column chromatography over aluminium oxide N (activity II, eluant: methylene chloride). Yield: 3.7 g (75.2% of theory).

reactant | 2-(2-hydroxyethyl)-hexahydro-azepinehydrochloride | 0.016 mol, 2.9 g | Cl.OCCC1NCCCCC1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(3,4-dimethoxy-phenyl)ethylbromide | 0.016 mol, 3.9 g | COC=1C=C(C=CC1OC)CCBr | C10H13BrO2
reactant | sodium hydroxide | 2 molar | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | N- [2-(3,4-Dimethoxy-phenyl)-ethyl]-2-(2-hydroxyethyl)hexahydro-azepine | COC=1C=C(C=CC1OC)CCN1C(CCCCC1)CCO | C18H29NO3
